US06900216B2
A mixture of 2-bromo-1-(4,5-dichlorobenzo[b]thiophen-2-yl)propan-1-one (1.59 g), 2-imidazolidinethione (0.43 g), ethanol (25 ml) and acetic acid (12.5 ml) was heated under reflux for 4 hours and allowed to cool to ambient temperature. The solvent was removed in vacuo to give a yellow solid which was triturated with ether (3×10 ml). The resulting solid was collected by filtration and dried in vacuo at 60° C. to give 3-(4,5-dichlorobenzo[b]thiophen-2-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]-thiazole hydrobromide (1.8 g) as a yellow solid, m.p. 244-246° C.

reactant | 2-bromo-1-(4,5-dichlorobenzo[b]thiophen-2-yl)propan-1-one | 1.59 g | BrC(C(=O)C1=CC2=C(S1)C=CC(=C2Cl)Cl)C | C11H7BrCl2OS
reactant | 2-imidazolidinethione | 0.43 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | acetic acid | 12.5 ml | C(C)(=O)O | C2H4O2
product | 3-(4,5-dichlorobenzo[b]thiophen-2-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]-thiazole hydrobromide | 1.8 g | Br.ClC1=C(C=CC=2SC(=CC21)C=2N1C(SC2C)=NCC1)Cl | InChI=1S/C14H10Cl2N2S2.BrH/c1-7-13(18-5-4-17-14(18)19-7)11-6-8-10(20-11)3-2-9(15)12(8)16;/h2-3,6H,4-5H2,1H3;1H
